US05001123
STEP 7C 2,3-dimethoxy-5-formylpyrazine
To a stirred solution of 4.85 gm of 2-bromo 5,6-dimethoxypyrazine in 80 ml of dry ether under N2 at -35° C. was added dropwise 14.5 ml of n butyllithium (1.6 N in hexanes). After stirring for 0.5 hours at -35° C. 5.74 ml of dry DMF was added dropwise to the reaction mixture. This dark brown homogeneous solution was stirred at -20° C. for 1 hour and at 25° C. for 0.5 hours, then was quenched with an aqueous solution of NH4Cl. The reaction mixture was extracted with methylene chloride, and the organic fractions were washed with water, brine and dried over MgSO4, and filtered and evaporated to give a red oil. Chromatography on a short silica gel column provided 1.5 gm of a mixture of the title aldehyde and its hydrate which was used without further purification.

reactant | 2-bromo 5,6-dimethoxypyrazine | 4.85 gm | BrC1=NC(=C(N=C1)OC)OC | C6H7BrN2O2
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | DMF | 5.74 ml | CN(C)C=O | C3H7NO
solvent | ether | 80 ml | CCOCC | C4H10O
product | 2,3-dimethoxy-5-formylpyrazine | 1.5 gm | COC1=NC=C(N=C1OC)C=O | C7H8N2O3
